US05290934
To diethyl 2-methyl-3,4,6-trifluorobenzoylmalonate (5.1 g) are added water (20 ml) and p-toluenesulfonic acid (30 mg) and the mixture is refluxed for 2.5 hours. After cooling, the resultant is extracted with diethyl ether, and the extract is dried over magnesium sulfate and concentrated to give ethyl 2-methyl-3,4,6-trifluorobenzoylacetate (3.3 g).

reactant | diethyl 2-methyl-3,4,6-trifluorobenzoylmalonate | 5.1 g | CC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=CC(=C1F)F)F | C15H15F3O5
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 20 ml | O | H2O
product | ethyl 2-methyl-3,4,6-trifluorobenzoylacetate | 3.3 g | CC1=C(C(=O)CC(=O)OCC)C(=CC(=C1F)F)F | C12H11F3O3
